US07714009B2
N2-Diphenylmethylene-N4,N4-dipropylpyridine-2,4-diamine
A mixture of 0.52 g (2.4 mmol) of 2-chloro-N4,N4-dipropylpyridin-4-amine, 0.076 g (0.12 mmol) of racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl (BINAP), 0.33 g (3.4 mmol) of sodium tert-butoxide and 0.027 g (0.12 mmol) of palladium (II) acetate in 25 mL of toluene was treated with 0.49 mL (2.9 mmol) of benzophenone imine and heated to 85° C. for 18 h. The crude reaction mixture was diluted with ethyl acetate, filtered through a pad of celite and purified by flash chromatography eluting with a 33% hexanes/ethyl acetate mixture to give 0.65 g (75%) of the title compound as a golden oil.

reactant | 2-chloro-N4,N4-dipropylpyridin-4-amine | 2.4 mmol, 0.52 g | ClC1=NC=CC(=C1)N(CCC)CCC | C11H17ClN2
reactant | sodium tert-butoxide | 3.4 mmol, 0.33 g | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 2.9 mmol, 0.49 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) acetate | 0.12 mmol, 0.027 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 0.12 mmol, 0.076 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | N2-Diphenylmethylene-N4,N4-dipropylpyridine-2,4-diamine | 0.65 g, 75% | C1(=CC=CC=C1)C(=NC1=NC=CC(=C1)N(CCC)CCC)C1=CC=CC=C1 | C24H27N3
